US04200641
A mixture of 30 parts of 3-[(2-amino-4-chlorophenyl)amino]-1-propanol, 20 parts of propanoic acid and 200 parts of a hydrochloric acid solution 4 N is stirred and refluxed for 3 hours. The reaction mixture is cooled, water and crushed ice are added and the whole is treated with activated charcoal. The latter is filtered off and the filtrate is alkalized with ammonium hydroxide. The product is extracted with methylbenzene. The extract is dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 5-chloro-2-ethyl-1H-benzimidazole-1-propanol.

reactant | 3-[(2-amino-4-chlorophenyl)amino]-1-propanol | NC1=C(C=CC(=C1)Cl)NCCCO | C9H13ClN2O
reactant | propanoic acid | C(CC)(=O)O | C3H6O2
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | charcoal | C | CH4
solvent | water | O | H2O
product | 5-chloro-2-ethyl-1H-benzimidazole-1-propanol | ClC1=CC2=C(N(C(=N2)CC)CCCO)C=C1 | C12H15ClN2O
